US05663371
Nitrobenzene was treated with ethyl dibromoacetate in dimethylformamide containing potassium tertiarybutoxide at -20° C. to give ethyl 2-bromo-2-(4-nitrophenyl)acetate (1.37 parts) which was dissolved in methanol (50 parts). To this methanol solution was added dropwise separately a solution of bromine (1.72 parts) in methanol (40 parts) and a solution of sodium methoxide (0.56 parts) in methanol (40 parts). The reaction mixture was poured into dilute aqueous hydrochloric acid solution and extracted with dichloromethane. The dichloromethane solution was evaporated to give methyl 2,2-dibromo-2-(4-nitrophenyl)acetate (1.44 parts, 50%).

reactant | Nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | ethyl dibromoacetate | BrC(C(=O)OCC)Br | C4H6Br2O2
reactant | potassium tertiarybutoxide | CC(C)([O-])C.[K+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | ethyl 2-bromo-2-(4-nitrophenyl)acetate | BrC(C(=O)OCC)C1=CC=C(C=C1)[N+](=O)[O-] | C10H10BrNO4
